US04971620
Preparation of N-methyl-N-(2,3-epoxy-2-phenylpropyl)-p-toluenesulfonamide
A mixture of 9.8 g of N-methyl-N-(2-phenyl-2-propenyl)-p-toluenesulfonamide, 9.63 g of m-chloroperbenzoic acid and 280 ml of chloroform were stirred at 60° C. for 3 hours. After cooling, the reaction mixture was washed subsequently with 10% aqueous sodium bisulfite and water, dried over anhydrous magnesium sulfate. The solvent was distilled off and the residue was purified by silica gel column chromatography (developing solvent:ethyl acetate -n-hexane) to obtain 7.7 g of the titled compound.

reactant | N-methyl-N-(2-phenyl-2-propenyl)-p-toluenesulfonamide | 9.8 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)CC(=C)C1=CC=CC=C1 | C17H19NO2S
reactant | m-chloroperbenzoic acid | 9.63 g | ClC1=CC(=CC=C1)C(=O)OO | C7H5ClO3
solvent | chloroform | 280 ml | C(Cl)(Cl)Cl | CHCl3
product | N-methyl-N-(2,3-epoxy-2-phenylpropyl)-p-toluenesulfonamide | 7.7 g | CN(S(=O)(=O)C1=CC=C(C=C1)C)CC1(CO1)C1=CC=CC=C1 | C17H19NO3S
